US06828320B2
(4-Benzyloxy-phenyl)-(6-(5-(((2-methanesulphonyl-ethyl)-methyl-amino)-methyl)-furan-2-yl)-quinazolin-4-yl)-amine
In an analogous manner to Example 10, 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride (0.217 g, 0.474 mmol) was reacted with N-methyl-N-(2-methanesulphonyl-ethyl)amine (0.411 g, 3.0 mmol). Purification by silica gel chromatography, eluting with 2-3% MeOH/CHCl3, followed by trituration with ether, gave the title compound as a pale yellow solid (0.100 g, 0.184 mmol, 39%); δH [2H6]DMSO 9.84 (1H, s), 8.63 (1H, s), 8.48 (1H, s), 8.12 (1H, d), 7.78 (1H, d), 7.68 (2H, d), 7.13-7.52 (5H, m), 7.02-7.10 (3H, m), 6.55 (1H, d), 5.14 (2H, s), 3.70 (2H, s), 3.35-3.44 (2H, obscured by water), 3.05 (3H, s), 2.84 (2H, t), 2.28 (3H, s).

reactant | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride | 0.474 mmol, 0.217 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O
reactant | N-methyl-N-(2-methanesulphonyl-ethyl)amine | 3.0 mmol, 0.411 g | CNCCS(=O)(=O)C | C4H11NO2S
product | (4-Benzyloxy-phenyl)-(6-(5-(((2-methanesulphonyl-ethyl)-methyl-amino)-methyl)-furan-2-yl)-quinazolin-4-yl)-amine | 0.184 mmol, 0.100 g, 39% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)CN(C)CCS(=O)(=O)C | C30H30N4O4S
